US04456716
N-Phenyl-2-(3-tert-butyl-5-methyl-4-hydroxyphenylthio)-succinimide
The procedure of Example 1 is repeated using 9.82 grams of 2-tert-butyl-6-methyl-4-mercaptophenol, 8.66 grams of N-phenylmaleimide, and 0.5 grams of triethylamine. The residue is recrystallized from a heptane-toluene mixture to give 16.44 grams of a white solid, m.p. 158°-160° C.

reactant | 2-tert-butyl-6-methyl-4-mercaptophenol | 9.82 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C)O | C11H16OS
reactant | N-phenylmaleimide | 8.66 grams | C1(=CC=CC=C1)N1C(C=CC1=O)=O | C10H7NO2
solvent | triethylamine | 0.5 grams | C(C)N(CC)CC | C6H15N
product | N-Phenyl-2-(3-tert-butyl-5-methyl-4-hydroxyphenylthio)-succinimide | 16.44 grams | C1(=CC=CC=C1)N1C(C(CC1=O)SC1=CC(=C(C(=C1)C)O)C(C)(C)C)=O | C21H23NO3S
